US08877774B2
Step 2. Benzyl 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-bromobenzoate
To a stirred solution of benzyl 3-bromo-5-hydroxybenzoate (2.85 g, 9.22 mmol) in dimethyl formamide (50 mL), was added 2-(8-bromooctyl)-1,3-dioxolane (2.44 g, 9.21 mmol) and potassium carbonate (1.91 g, 13.8 mmol), and the mixture stirred at 80° C. for 16 hours. The reaction mixture was cooled to room temperature, diluted with water and extracted with ethyl acetate (×3). The combined organic extracts were washed with brine, dried (magnesium sulphate), filtered, and concentrated under reduced pressure. The crude material was purified by silica gel chromatography eluting with 0-7% ethyl acetate in iso-hexane to afford the title compound (2.94 g, 65%).

reactant | benzyl 3-bromo-5-hydroxybenzoate | 9.22 mmol, 2.85 g | BrC=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1)O | C14H11BrO3
reactant | 2-(8-bromooctyl)-1,3-dioxolane | 9.21 mmol, 2.44 g | BrCCCCCCCCC1OCCO1 | C11H21BrO2
reactant | potassium carbonate | 13.8 mmol, 1.91 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl formamide | 50 mL | CN(C=O)C | C3H7NO
solvent | water | O | H2O
product | Benzyl 3-((8-(1,3-dioxolan-2-yl)octyl)oxy)-5-bromobenzoate | 2.94 g, 65% | O1C(OCC1)CCCCCCCCOC=1C=C(C(=O)OCC2=CC=CC=C2)C=C(C1)Br | C25H31BrO5
